US05550292
In a mixture of 150 ml of formic acid and 150 ml of 37% formaldehyde was dissolved 80 g of 3-(4-chlorobenzyloxy)-N-cyclopropylmethylbenzylamine. The solution was refluxed with heating, for 3 hours. The reaction mixture was cooled to room temperature, and 150 ml of concentrated hydrochloric acid was added thereto. The mixture was subjected to vacuum distillation to remove the solvent. The resulting residue was treated with chloroform-aqueous sodium hydroxide solution. The resulting chloroform layer was separated, washed with water, dried with anhydrous sodium sulfate, and subjected to vacuum distillation to remove the solvent, whereby 86 g of 3-(4-chlorobenzyloxy)-N-cyclopropylmethyl-N-methylbenzylamine was obtained as a brown oil.

reactant | 3-(4-chlorobenzyloxy)-N-cyclopropylmethylbenzylamine | 80 g | ClC1=CC=C(COC=2C=C(CNCC3CC3)C=CC2)C=C1 | C18H20ClNO
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | formic acid | 150 ml | C(=O)O | CH2O2
solvent | formaldehyde | 150 ml | C=O | CH2O
product | 3-(4-chlorobenzyloxy)-N-cyclopropylmethyl-N-methylbenzylamine | 86 g | ClC1=CC=C(COC=2C=C(CN(C)CC3CC3)C=CC2)C=C1 | C19H22ClNO
